US06329381B1
6-Amino-9-benzyl-2-benzylmethylamino-8-hydroxypurine
6-Amino-9-benzyl-2-benzylmethylamino-8-bromopurine (85 mg, 0.20 mmol) in concentrated hydrochloric acid (30 ml) and methanol (20 ml) were refluxed for 5 hours under heating. The reaction mixture was made basic with 28% aqueous ammonia, and the resulting crystals were filtered, washed with water and dried to give the subject compound (56 mg, yield 77%).

reactant | 6-Amino-9-benzyl-2-benzylmethylamino-8-bromopurine | 0.20 mmol, 85 mg | NC1=C2N=C(N(C2=NC(=N1)NCCC1=CC=CC=C1)CC1=CC=CC=C1)Br | C20H19BrN6
reactant | ammonia | N | H3N
reactant | methanol | 20 ml | CO | CH4O
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 6-Amino-9-benzyl-2-benzylmethylamino-8-hydroxypurine | 56 mg, yield 77% | NC1=C2N=C(N(C2=NC(=N1)NCCC1=CC=CC=C1)CC1=CC=CC=C1)O | C20H20N6O
